US07491821B2
To a solution of ethyl-2-fluorobenzoylacetate (4.3 ml, 24 mmol) in EtOH (48 ml) was added methylhydrazine (1.32 ml, 25 mmol) under N2 at RT. The reaction was heated at reflux for 18 h. The mixture was then evaporated, and the off white solid residue taken up in hot EtOAc. The mixture was cooled down, and the white solid not dissolved was collected via filtration and washed with hexane, then dried under reduced pressure to yield 5-(2-fluorophenyl)-2-methyl-2H-pyrazol-3-ol (intermediate XXVIIIa, 3.54 g, 77% yield). M+=193.

reactant | ethyl-2-fluorobenzoylacetate | 24 mmol, 4.3 ml | C(C)OC(CC(C1=C(C=CC=C1)F)=O)=O | C11H11FO3
reactant | methylhydrazine | 25 mmol, 1.32 ml | CNN | CH6N2
solvent | EtOH | 48 ml | CCO | C2H6O
product | 5-(2-fluorophenyl)-2-methyl-2H-pyrazol-3-ol | 3.54 g, 77% yield | FC1=C(C=CC=C1)C=1C=C(N(N1)C)O | C10H9FN2O
